Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain, left hip pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo male with history of HTN, hyperglycemia, chronic back pain 
secondary to spinal stenosis and chronic left hip pain treated 
with injections, who presented with left parasternal chest pain 
for three days and chronic left hip pain worsening over last 
month. The chest pain is in the setting of acute worsening of 
his left hip pain. At its worst it was a ___ in intensity, 
described as sharp, worse with palpation and coughing. He states 
that the pain improves when he lays flat in bed. He denies any 
SOB, diaphroesis associated with the chest pain. He states that 
his left hip pain has been getting progressively worse over the 
last month. He has been evaluated as an outpatient for this 
pain, and is scheduled for an outpatient hip MRI on ___, 
and subsequent steroid injection. He is not sure when his last 
steroid injection was, but he has received 5 total over the last 
many years, and he reports that they typically last for ___ year. 
His left hip pain is worse with ambulation. He states that when 
he was younger, he was hit by a police detective who was 
speeding through the city, and the car drove over him. Since 
then he has experienced left hip pain. He was mostly concerned 
about the hip pain, which is what prompted him to come to the 
hospital today.

In the ED, initial vitals were 98.2 110 118/92 18 98% on RA. Per 
report: EKG noted poor R wave progression and no st changes; 
bedside U/S was without effusion; and CXR noted no acute 
process. AsA 325mg was given in addition to his home percocet 
for hip pain. His first troponin was negative and a plan was 
made for a second troponin and a stress mibi given limited 
ambulation. Most recent vitals prior to transfer: 97.4 89 115/87 
14 95% on RA.
 
On arrival to the floor, he denies any chest pain. He reports 
that his hip remains painful, but less so when he lays in bed. 
He denies any SOB, cough, fevers.

 
Past Medical History:
1. CARDIAC RISK FACTORS: +Diabetes, -Dyslipidemia, +Hypertension 
 
2. CARDIAC HISTORY:  
- CABG:  
- PERCUTANEOUS CORONARY INTERVENTIONS:  
- PACING/ICD:  
3. OTHER PAST MEDICAL HISTORY:  
-HTN
-Type 2 Diabetes
-Hypertriglyceridemia
-ED
-Insomnia
-Knee pain on chronic narcotics
-LBP/spinal stenosis on chronic narcotics
-retinal tear
-hx drug abuse
 
Social History:
___
Family History:
- HTN in "everyone in my family"
- Daughter with ___, unknown type
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: T=97.7  BP=114/88, HR=94, RR=20, O2=96%RA
Wt: 154.2lbs
GENERAL: NAD, pleasant.  
HEENT: NCAT. Sclera anicteric.
NECK: Supple with no JVD.  
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4. No tenderness to palpation. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. CTAB, 
no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e. No femoral bruits. Tenderness to 
palpation over the left hip, but no evidence of deformity or 
scarring.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: DP 2+ ___ 2+  
Left: DP 2+ ___ 2+  
NEURO: A+Ox3, CN ___ grossly intact. Strength ___ in proximal 
and distal muscle groups on the left lower extremity and ___ in 
the right lower extremity. Patellar tendon reflex 2+ on left, 
unable to elicit on right. Sensation to light touch intact over 
right lower extremities, but slightly diminished on the left.

DISCHARGE PHYSICAL EXAM:
VS: 97.7, 98-120/68-79, 78-88, 18, 97%RA
GENERAL: NAD, pleasant.  
HEENT: NCAT. Sclera anicteric.
NECK: Supple with no JVD.  
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4. No tenderness to palpation. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. CTAB, 
no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e. No femoral bruits. Tenderness to 
palpation over the left hip, but no evidence of deformity or 
scarring. No tenderness to palpation over the left foot. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: DP 2+ ___ 2+  
Left: DP 2+ ___ 2+  
NEURO: A+Ox3, CN ___ grossly intact. 

 
Pertinent Results:
ADMISSION LABS:

 
Brief Hospital Course:
___ yo male with history of HTN, hyperglycemia, chronic back pain 
secondary to spinal stenosis and chronic left hip pain treated 
with injections, who presented with left parasternal chest pain  
for three days and chronic left hip pain worsening over last 
month. 
 
# Chest Pain: Had resolved upon arrival to the floor. On 
admission he reported ___ chest pain over the last three days, 
worse with cough, palpation, and movement. No associated SOB, 
diaphoresis. Cardiac enzymes were negative x2. EKG did not show 
any evidence of ischemia. He has no personal or family history 
of CAD. Musculoskeletal pain from costocondritis seems to be the 
most likely etiology given his previously reproducable pain with 
palpation, and that it gets worse with coughing. However, he 
does have multiple risk factors for coronary artery disease, 
including male gender, age, hyperlipidemia, and would likely 
benefit from an outpatient stress test. For risk factor 
modification, he was started on a baby aspirin and statin. 

# Left Hip Pain: Acute worsening of his chronic left hip pain. 
No evidence of infection given lack of leukocytosis, fevers, or 
evidence of hot or inflamed joint. Does endorse some tenderness 
to palpation over the left hip, but no abnormalities are 
appreciated on external exam. Strength is slightly diminished on 
the left, as is sensation to light tough. He is scheduled for 
outpatient MRI of the left hip on ___. We treated him 
with percocet and ibuprofen and his pain improved. 

# Hyponatremia: Mild hyponatremia noted on admission labs. Also 
with elevated Hct, which could be suggestive of hypovolemic 
hyponatremia. Resolved with IVF. 

# Dyslipidemia: Lipid panel notable for total cholesterol 237, 
LDL 127, Trig 317, HDL 49. Given his diabetes, his LDL goal is 
<70. He was started on simvastatin. 

# Type 2 DM: Most recent HgbA1C of 6.9 in ___, which 
technically meets criteria for diabetes. Recheck is pending at 
the time that this discharge summary was signed. His finger 
sticks were monitored, and he was maintained on a diabetic diet. 
He was also given diet education and handouts on appropriate 
food choices.

CHRONIC ISSUES: 
# GERD: On ranitidine as needed as an outpatient. Given his 
standing ibuprofen and new aspirin, we started him on 
omperazole, and continued ranitidine as needed.

# HTN: Well controlled on current regimen. Continued lisinopril, 
HCTZ.

# History of narcotics abuse: His home dose of percocet was 
non-formulary, but he was maintained on a similar dose and was 
not discharged with any prescriptions for additional narcotics. 
 
TRANSITIONAL ISSUES: 
- new T2DM, pending A1C
- risk factors for coronary artery disease, likely needs a 
stress given age, male sex, and concomittant risk factors even 
without anginal chest pain
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Percocet *NF* (oxyCODONE-acetaminophen) 7.5-325 mg Oral TID 
2 tabs 
2. Ibuprofen 800 mg PO Q8H 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
Please hold for SBP<90 
4. Clonazepam 1 mg PO QHS:PRN insomnia 
Please hold for RR<12 or sedation 
5. Ranitidine 150 mg PO BID:PRN acid 
6. Lisinopril 10 mg PO DAILY 
Please hold for SBP<90 
7. traZODONE 50-100 mg PO HS:PRN insomnia 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Clonazepam 1 mg PO QHS:PRN insomnia 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Ibuprofen 800 mg PO Q8H 
4. Lisinopril 10 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Ranitidine 150 mg PO BID:PRN acid 
7. traZODONE 50-100 mg PO HS:PRN insomnia 
8. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
9. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0
10. Simvastatin 10 mg PO DAILY 
RX *simvastatin 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
11. Percocet *NF* (oxyCODONE-acetaminophen) 7.5-325 mg Oral TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Musculoskeletal chest pain, chronic left sided hip pain 
and low back pain, new type 2 diabetes mellitus

Secondary: gastroesophageal reflux disorder, insomnia, 
hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

It was a pleasure taking care of you at ___ 
___. You presented with chest pain and left hip pain. 
While you were here you had labs checked, which did not show any 
evidence of a heart attack. Your pain was controlled with oral 
pain medications, and it improved. 

While you were here you were found to have elevated cholesterol. 
As a result, you were started on a new medication called 
simvastatin. The point of this medication to decrease your 
cholesterol, which will help decrease your risk for coronary 
artery disease. Also, we started you on a small dose of aspirin 
to help decrease your risk of heart attack as well.

Also, you had a lab test which showed that you have diabetes. It 
is very important to follow a diabetic diet, and you were given 
handouts with instructions on which foods are better for you 
with your new diagnosis of diabetes. 

Also, because you were started aspirin, and because you take 
ibuprofen chronically at home, we started you on a medication to 
present stomach ulcers. This medication is called omeprazole. 
You should take this medication daily, and continue to use 
ranitidine as needed for acute episodes of acid reflux. 

Please note that the following changes have been made to your 
meds:
Please START simvastatin 10mg daily
Please START aspirin 81mg daily
Please START omeprazole 20mg daily
 
Followup Instructions:
___